US05728686
a) 7-Benzyl-3-phenylxanthine
3.2 g (0.1315 mol) of sodium hydride were added in portions to a suspension of 30 g (0.1315 mol) of 3-phenylxanthine in 600 ml of DMF, the mixture was stirred at 25° C. for 30 minutes and then heated to 80° C. 27 g (0.1578 mol) of benzyl bromide were then added and the solution was left at 80° C. for 6 hours. After cooling to 50° C., the reaction mixture was poured into 2000 ml of ice-water, and the precipitate obtained was filtered off with suction, washed well with water and dried under reduced pressure. The dry residue was crystallized from dioxane/methanol.

reactant | sodium hydride | 0.1315 mol, 3.2 g | [H-].[Na+]
reactant | 3-phenylxanthine | 0.1315 mol, 30 g | C1(=CC=CC=C1)N1C(NC(C=2NC=NC12)=O)=O | C11H8N4O2
reactant | benzyl bromide | 0.1578 mol, 27 g | C(C1=CC=CC=C1)Br | C7H7Br
solvent | DMF | 600 ml | CN(C)C=O | C3H7NO
product | 7-Benzyl-3-phenylxanthine | C(C1=CC=CC=C1)N1C=NC=2N(C(NC(C12)=O)=O)C1=CC=CC=C1 | C18H14N4O2
